US07365210B2
Preparation of 1,5-dimethyl-4-phenylimidazolidin-2-one
1 mol of an ephedrine, 1.025 mol of ammonium sulfamate, 3 mol of urea and the proton-donating compound were introduced into 200 ml of NMP. The reaction mixture was heated to 175 to 180° C. and stirred at this temperature for 2.5 h. It was then cooled to 130° C. and, at this temperature, water was added dropwise to the reaction mixture. Two phases formed. The lower phase was removed at 95° C. The upper phase was further cooled initially to 65° C. Crystals formed at this temperature. It was cooled further to 10° C. and stirred at this temperature for 1 h. The crystals were filtered off with suction and washed twice with cold water. The solid was dried in vacuo at RT overnight.

reactant | ephedrine | 1 mol | C[C@@H]([C@@H](C=1C=CC=CC1)O)NC | C10H15NO
reactant | ammonium sulfamate | 1.025 mol | S(N)([O-])(=O)=O.[NH4+]
reactant | urea | 3 mol | NC(=O)N | CH4N2O
reactant | NMP | 200 ml | CN1CCCC1=O | C5H9NO
solvent | water | O | H2O
product | 1,5-dimethyl-4-phenylimidazolidin-2-one | CN1C(NC(C1C)C1=CC=CC=C1)=O | C11H14N2O
